US06869956B2
1,4-Dihydrobenzo[g]quinoxalin-2,3-dione
A mixture of 2,3-diaminonaphthalene (2.87 g, 18.14 mmol) and diethyl oxalate (30 mL, 223 mmol) was heated to reflux for 14 hours, cooled to RT and filtered. The residue was washed with EtOH and dried in vacuo to give the title compound as a brown solid (3.15 g, 82%); mp>350° C.; IR (KBr, cm−1) 3045, 2942, 2869,1716, 1642,1406, 877; 1H NMR (DMSO) δ 12.11 (s, 2H), 7.84-7.81 (m, 2H), 7.54 (s, 2H) 7.39 (dd, J=6.3, 3.0, 2H); LC/MS 92.5% (220 nm), m/z (M+H+) 213.

reactant | 2,3-diaminonaphthalene | 18.14 mmol, 2.87 g | NC1=CC2=CC=CC=C2C=C1N | C10H10N2
reactant | diethyl oxalate | 223 mmol, 30 mL | C(C(=O)OCC)(=O)OCC | C6H10O4
product | 1,4-Dihydrobenzo[g]quinoxalin-2,3-dione | 3.15 g, 82% | N1C(C(NC=2C=C3C(=CC12)C=CC=C3)=O)=O | C12H8N2O2
